US04727073
To a suspension of methyl 6-bromomethyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate (1.5 g) in isopropyl alcohol (15 ml) was added N-methylpiperazine (0.88 g) at 70° C. The reaction mixture was stirred for 10 minutes at the same temperature. After evaporating the solvent, the residue was dissolved in a mixture of chloroform (50 ml) and water (50 ml). The organic layer was separated, dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to column chromatography on alumina (100 g) eluting with chloroform. The fractions containing the object compound were combined and concentrated under reduced pressure. The residual crystal was recrystallized from a mixture of diethyl ether and ethanol to give methyl 6-(4-methylpiperazin-1-ylmethyl)-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate (0.37 g).

reactant | methyl 6-bromomethyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | 1.5 g | BrCC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC | C19H14BrN3O4
reactant | N-methylpiperazine | 0.88 g | CN1CCNCC1 | C5H12N2
solvent | isopropyl alcohol | 15 ml | C(C)(C)O | C3H8O
product | methyl 6-(4-methylpiperazin-1-ylmethyl)-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | 0.37 g | CN1CCN(CC1)CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC | C24H25N5O4
